US08809525B2
3-(3-Amino-5-phenyl-1,2,4-triazin-6-yl)-5-chlorophenol (890 mg, 85%) was prepared by demethylation of 6-(3-chloro-5-methoxyphenyl)-5-phenyl-1,2,4-triazin-3-amine (1.2 g, 3.84 mmol; vide supra) with BBr3 (5 mL) at −70° C. for 2 hours and then for a further 16 hours at RT. The resulting mixture was then poured into water (25 mL) and extracted with DCM (3×30 mL). The combined organic extracts were then dried over Na2SO4 and concentrated under vacuum. The crude compound was purified by gradient flash chromatography, eluting with 30% ethyl acetate in hexane to afford the target compound.

reactant | 6-(3-chloro-5-methoxyphenyl)-5-phenyl-1,2,4-triazin-3-amine | 3.84 mmol, 1.2 g | ClC=1C=C(C=C(C1)OC)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C16H13ClN4O
reactant | BBr3 | 5 mL | B(Br)(Br)Br | BBr3
solvent | water | 25 mL | O | H2O
product | 3-(3-Amino-5-phenyl-1,2,4-triazin-6-yl)-5-chlorophenol | 890 mg, 85% | NC=1N=NC(=C(N1)C1=CC=CC=C1)C=1C=C(C=C(C1)Cl)O | C15H11ClN4O
